US05271864
Ethyl acrylate (1.92 ml) is added to toluene (15 ml) and aluminum chloride (215 mg). The resulting solution is cooled to 0° C., after which 2-pentyl-1,3-butadiene (2.0 g) is added dropwise over a period of 30 minutes. The reaction mixture is then stirred for 5 hr at 0° C., and stored in a 4° C. refrigerator overnight. The resulting mixture is placed in an extraction funnel, and washed with two 200 ml aliquots of 1% HCl. The reaction mixture is further washed with 100 ml water, then with 100 ml saturated sodium chloride, and dried over a combination of sodium sulfate and potassium carbonate. The mixture is filtered through celite, and the solvent removed in vacuo. The resulting liquid is distilled at 107°-109° C. at 1 mm Hg to produce ethyl 4-pentyl-3-cyclohexen-1-carboxylate.

reactant | Ethyl acrylate | 1.92 ml | C(C=C)(=O)OCC | C5H8O2
reactant | aluminum chloride | 215 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-pentyl-1,3-butadiene | 2.0 g | C(CCCC)C(=C)C=C | C9H16
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-pentyl-3-cyclohexen-1-carboxylate | C(CCCC)C1=CCC(CC1)C(=O)OCC | C14H24O2
